US06331548B1
Synthesis of (1R,3R)-3-azidocyclopentyl acetate
To a 8 ml DMF solution of 580 mg (2.61 mmol) of (1R,3S)-3-[(methylsulfonyl)oxy]cyclopentyl acetate, 203 mg (3.13 mmol) of sodium azide and 26 μl (0.13 mmol) of 15-crown-5-ether were added and stirred at 80° C. for 3 hours, followed by concentrating and then by diluting with 50 ml of diethyl ether. The residue was washed with 10 ml of saturated saline and then the solvent was distilled off to obtain 360 mg (82%) of the above-identified compound as a slightly brown oily substance.

reactant | (1R,3S)-3-[(methylsulfonyl)oxy]cyclopentyl acetate | 2.61 mmol, 580 mg | C(C)(=O)O[C@H]1C[C@H](CC1)OS(=O)(=O)C | C8H14O5S
reactant | sodium azide | 3.13 mmol, 203 mg | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
product | (1R,3R)-3-azidocyclopentyl acetate | 360 mg, 82% | C(C)(=O)O[C@H]1C[C@@H](CC1)N=[N+]=[N-] | C7H11N3O2
